US06638972B2
Preparation of 3-[(7-hydroxychroman-2-ylmethyl)amino]propan-1-ol
A mixture of 2-bromomethyl-7-hydroxychroman (4.57 g, 18.8 mmol) and 3-amino-1-propanol (18.3 mL, 240 mmol) is heated at 100° C. for 2 hr, cooled, diluted with water and extracted with CH2Cl2. The combined extracts are concentrated in vacuo to give a residue. The residue is purified by column chromatography (silica gel/5% methanol in CH2Cl2 as eluent) to give the title product as a clear oil, 3.27 g (73% yield) identified by NMR and mass spectral analyses.

reactant | 2-bromomethyl-7-hydroxychroman | 18.8 mmol, 4.57 g | BrCC1OC2=CC(=CC=C2CC1)O | C10H11BrO2
reactant | 3-amino-1-propanol | 240 mmol, 18.3 mL | NCCCO | C3H9NO
solvent | water | O | H2O
product | 3-[(7-hydroxychroman-2-ylmethyl)amino]propan-1-ol | 73% yield | OC1=CC=C2CCC(OC2=C1)CNCCCO | C13H19NO3
